US04535183
2-Acetylamino-6-hydroxybenzaldehyde (0.895 g, 0.005 M), ethyl 5-bromopentanoate (1.05 g. 0.005 M), anhydrous potassium carbonate (0.76 g), sodium iodide (50 mg) and 95% ethanol (20 ml) were refluxed with stirring for 16 hr. The cooled reaction mixture was filtered and the solid washed well with ethanol. The filtrate was evaporated to dryness and the residue partitioned between ether and water. The organic layer was separated and washed with 2 M sodium hydroxide solution, water, dried (sodium sulphate) and evaporated. The residue (ethyl 5-(3-acetylamino-2-formylphenoxy)pentanoate) was dissolved in 95% ethanol (20 ml) and treated with stirring over 1 hr with 1 N sodium hydroxide (4.5 ml), and then stirred at room temperature (2 hours). The solution was evaporated to one-third volume, diluted with water (10 ml) and acidified with concentrated hydrochloric acid with cooling. The precipitated solid was filtered off, washed well with water and recrystallised from benzene/petrol (charcoal) to give 5-(3-acetylamino- 2-formylphenoxy)pentanoic acid, m.p. 119°-121° C. (Found: C, 60.55; H, 6.26; N, 4.88%. C14H17NO5 requires C, 60.22; H, 6.09; N, 5.02%).

reactant | 2-Acetylamino-6-hydroxybenzaldehyde | 0.005 M, 0.895 g | C(C)(=O)NC1=C(C=O)C(=CC=C1)O | C9H9NO3
reactant | ethyl 5-bromopentanoate | 0.005 M, 1.05 g | BrCCCCC(=O)OCC | C7H13BrO2
reactant | potassium carbonate | 0.76 g | C([O-])([O-])=O.[K+].[K+]
reactant | sodium iodide | 50 mg | [I-].[Na+]
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | 5-(3-acetylamino- 2-formylphenoxy)pentanoic acid | C(C)(=O)NC=1C(=C(OCCCCC(=O)O)C=CC1)C=O | C14H17NO5
